US05064833
2-Chloro-4-(2-methylphenylaminomethyl)quinazoline (5.00 g, 0.0185 mol) and ethylamine in ethanol (33%, 30 ml) were dissolved in ethanol (35 ml) placed in a sealed vessel and heated for 5 hours at 130°. After cooling and removal of excess solvent in vacuo the residue afforded crystals of 2-ethylamino-4-(2-methylphenylamino)quinazoline (1.7 g, 33%) from ethanol/water, m.p. 127°-129°.

reactant | 2-Chloro-4-(2-methylphenylaminomethyl)quinazoline | 0.0185 mol, 5.00 g | ClC1=NC2=CC=CC=C2C(=N1)CNC1=C(C=CC=C1)C | C16H14ClN3
reactant | ethylamine | C(C)N | C2H7N
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | 2-ethylamino-4-(2-methylphenylamino)quinazoline | 1.7 g, 33% | C(C)NC1=NC2=CC=CC=C2C(=N1)NC1=C(C=CC=C1)C | C17H18N4
